US08440666B2
N-{2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]ethyl}pyridine-4-carboxamide
2-(2-Aminoethyl)-4-bromo-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one (28 mg, 0.0758 mmol) and triethylamine (21 μL, 0.152 mmol) in dichloromethane (1 mL) were stirred with pyridine-4-carbonyl chloride (20 mg, 0.112 mmol) at room temperature for 5 hours. After completion of the reaction, the reaction solution was mixed with water and extracted with ethyl acetate, and the extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol=9/1) to give the desired product (19 mg, 52% yield).

reactant | 2-(2-Aminoethyl)-4-bromo-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 0.0758 mmol, 28 mg | NCCN1N=CC(=C(C1=O)Br)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C16H25BrN4O
reactant | triethylamine | 0.152 mmol, 21 μL | C(C)N(CC)CC | C6H15N
reactant | pyridine-4-carbonyl chloride | 0.112 mmol, 20 mg | N1=CC=C(C=C1)C(=O)Cl | C6H4ClNO
reactant | water | O | H2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-{2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]ethyl}pyridine-4-carboxamide | 19 mg, 52% yield | BrC1=C(C=NN(C1=O)CCNC(=O)C1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28BrN5O2
